US06239131B1
1-tert-Butylcarbonylmethyl-2-oxo-3-[(2S)-(2-tert-butoxycarbonylamino-3-phenylpropionyl)amino]-5-phenyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (8.06 g) was dissolved in 4N HCl-dioxane (40 ml), the solution was stirred for one hour at room temperature. The reaction mixture was concentrated under reduced pressure, neutralized with saturated aqueous sodium bicarbonate, and extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography(ethyl acetate contained water), to thereby obtain 3.01 g of (+)-1-tert-butylcarbonylmethyl-2-oxo-3-[(2S)-(2-amino-3-phenylpropionyl)amino]-5-phenyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine of first eluent and 3.17 g of (−)-1-tert-butylcarbonylmethyl-2-oxo-3-[(2S)-(2-amino-3-phenylpropionyl)amino]-5-phenyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine of second eluent.

reactant | 1-tert-Butylcarbonylmethyl-2-oxo-3-[(2S)-(2-tert-butoxycarbonylamino-3-phenylpropionyl)amino]-5-phenyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 8.06 g | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C2=CC=CC=C2)NC([C@H](CC2=CC=CC=C2)NC(=O)OC(C)(C)C)=O)=O | C36H44N4O5
solvent | HCl dioxane | 4N, 40 ml | Cl.O1CCOCC1
product | (−)-1-tert-butylcarbonylmethyl-2-oxo-3-[(2S)-(2-amino-3-phenylpropionyl)amino]-5-phenyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 3.17 g | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C2=CC=CC=C2)NC([C@H](CC2=CC=CC=C2)N)=O)=O | C31H36N4O3
